US07319101B2
a) Methyl 2,3-dimethoxy-5-(toluene-4-sulfonyl)-benzoate
To a solution of methyl 5-iodo-2,3-dimethoxy-benzoate (2.25 g, 7.0 mmol) in 20 mL DMF, sodium p-toluenesulfinate hydrate (2.21 g, 11.26 mmol, 1.6 eq.) and CuI (2.22 g, 11.6 mmol, 1.66 eq.) were added and light green solution was stirred at 110° C. for 14 h. H2O and EtOAc were then added to the mixture and the phases were separated. The organic layer was washed with saturated NaCl solution, dried over MgSO4 and evaporated under reduced pressure. The crude product was purified using flash chromatography (silica gel, hexane/EtOAc 8:2→3:2) to yield the desired product as a colorless solid.

reactant | methyl 5-iodo-2,3-dimethoxy-benzoate | 7.0 mmol, 2.25 g | IC=1C=C(C(=C(C(=O)OC)C1)OC)OC | C10H11IO4
reactant | sodium p-toluenesulfinate hydrate | 11.26 mmol, 2.21 g, 1.6 eq. | O.C1(=CC=C(C=C1)S(=O)[O-])C.[Na+]
reactant | H2O | O | H2O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
catalyst | CuI | 11.6 mmol, 2.22 g, 1.66 eq. | [Cu]I
product | Methyl 2,3-dimethoxy-5-(toluene-4-sulfonyl)-benzoate | COC1=C(C(=O)OC)C=C(C=C1OC)S(=O)(=O)C1=CC=C(C=C1)C | C17H18O6S
